US07601722B2
To a stirred solution of 2,2-difluoro-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylpropanamide (ca. 1 mmol) at 0° C., was added borane-tetrahydrofuran complex (1 M in THF, 3 mL, 3 mmol). After stirring for 2 h, the mixture was quenched with dilute hydrochloric acid, basified (2 N NaOH) and extracted with ethylacetate. The organic layer was washed with water, dried (MgSO4) and evaporated. The residue was purified by silica gel column chromatography (hexanes: ethylacetate, gradient elution) to afford the crude product which was further purified by reverse phase hplc (Xterra RP18 19×150 mm, 5 u, 55% MeOH 45% H2O w/0.05% NH4OH, 20 mL/min). The residue obtained was dissolved in diethyl ether, treated with excess ethereal HCl and lyophilized to afford 2,2-difluoro-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylpropan-1-amine hydrochloride as a white solid.

reactant | 2,2-difluoro-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylpropanamide | ca. 1 mmol | FC(C(=O)NC)(CN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O)F | C16H14F3N3O3S
reactant | borane tetrahydrofuran | 3 mmol, 1 M, 3 mL | B.O1CCCC1
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,2-difluoro-3-[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]-N-methylpropan-1-amine hydrochloride | Cl.FC(CNC)(CN1S(N(C2=C1C=CC=C2)C2=C(C=CC=C2)F)(=O)=O)F | InChI=1S/C16H16F3N3O2S.ClH/c1-20-10-16(18,19)11-21-14-8-4-5-9-15(14)22(25(21,23)24)13-7-3-2-6-12(13)17;/h2-9,20H,10-11H2,1H3;1H
